US04711898
Methyl 2-(2-chlorophenyl)-4-quinolone-8-carboxylate
Alternatively, to 8 grams of dimethyl 2-aminoisophthalate was added 9.2 grams of o-chloroacetophenone diethylacetal, the mixture was heated at 140° C. for 30 minutes, then at 200° C. for additional 20 minutes, and finally heated to reflux for 18 hours. The reaction mixture was cooled, crystals separated out were collected by filtration, and recrystallized from acetone to give 2.8 grams of the title product, melting point 166°-168° C.

reactant | dimethyl 2-aminoisophthalate | 8 grams | NC1=C(C(=O)OC)C=CC=C1C(=O)OC | C10H11NO4
reactant | o-chloroacetophenone diethylacetal | 9.2 grams | C(C)OC(C)(C1=C(C=CC=C1)Cl)OCC | C12H17ClO2
product | Methyl 2-(2-chlorophenyl)-4-quinolone-8-carboxylate | 2.8 grams | ClC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C(C1)=O)C(=O)OC | C17H12ClNO3
